US07074800B1
A mixture of the (2R)-6-methoxy-4-(2-methylindol-5-yloxy)-7-(oxiran-2-ylmethoxy)quinazoline (250 mg, 0.66 mmol), (prepared as described for the starting material in Example 269), and pyrrolidine (1.5 ml) in THF (10 ml) was stirred at 75° C. for 3 hours under an atmosphere of nitrogen and then allowed to cool to ambient temperature. The mixture was filtered and the filtrate evaporated in vacuo. The residue was purified by silica gel chromatography using gradient elution with dichloromethane/methanolic ammonia (7M) (100/0 to 90/10) to give (2R)-7-(2-hydroxy-3-(pyrrolidin-1-yl)propoxy)4-methoxy-4-(2-methylindol-5-yloxy)quinazoline (165 mg, 55%).

reactant | (2R)-6-methoxy-4-(2-methylindol-5-yloxy)-7-(oxiran-2-ylmethoxy)quinazoline | 0.66 mmol, 250 mg | COC=1C=C2C(=NC=NC2=CC1OC[C@@H]1OC1)OC=1C=C2C=C(NC2=CC1)C | C21H19N3O4
reactant | pyrrolidine | 1.5 ml | N1CCCC1 | C4H9N
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | (2R)-7-(2-hydroxy-3-(pyrrolidin-1-yl)propoxy)4-methoxy-4-(2-methylindol-5-yloxy)quinazoline | 165 mg, 55% | O[C@@H](COC1=CC=C2C(NC=NC2=C1)(OC=1C=C2C=C(NC2=CC1)C)OC)CN1CCCC1 | C25H30N4O4
